Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Tape ___ / Anusol-HC
 
Attending: ___.
 
Chief Complaint:
Right Lower Extremity Hematoma
 
Major Surgical or Invasive Procedure:
___: I/D RLE hematoma

 
History of Present Illness:
The pt is a ___ y/o female who presented initially in ___ with 
a traumatic right lateral calf hematoma. She had been followed 
at ___ clinic and managed conservatively. The hematoma was 
complicated by surrounding cellulitis and she was treated 
without resolution. Given the prolonged course and failure of 
the hematoma to resolve, the decision was made to bring the 
patient to the operating room for an incision and drainage.  
 
Past Medical History:
PMH:  
- Paroxysmal afib on coum
- CAD
- HTN
- Spontaneous pelvic fracture related to severe osteoporosis
- Depression
- Chronic renal insufficiency
- Trace aortic regurgitation and 2+ tricuspid regurgitation  
- Osteoarthritis  
- Colon polyp  
- Diverticulosis  
- IBS  
- Asthma  
- Macular degeneration  
- Umbilical hernia s/p repair

PSH:  
- Right total hip replacement (___)  
- Periprosthetic hip fracture and repair (___)  
- Partial Colectomy for Diverticultis c/b anastomotic leak 
- Ileostomy (___) and repair (___)  
- Cataract repair
- T&A as child  

 
Social History:
___
Family History:
No history of stroke. Father died of CHF complicated by atrial  
fibrillation.  

 
Physical Exam:
Physical Exam:
Alert and oriented x 3 
VS:BP 139/82   HR 100   RR 18 98% (RA)
CV: RRR
Resp: Lungs clear
Abd: Soft, non tender
Ext: Right calf wound packed. Dressing c/d/i. Surrounding 
cellulitis improved. 
 
Pertinent Results:
OR Culture: no growth to date
 
Brief Hospital Course:
On ___, the patient underwent incision/debridement of her 
right calf hematoma. The wound was drained and cultures from the 
operating room sent. The patient tolerated the procedure well 
and was admitted to the floor. While on the floor, the patient 
underwent WTD dressing changes. She was continued on Augmentin. 
The patient was discharged on a 14 day course of augmentin on 
POD1. ___ was set up to place a wound VAC at home the day 
following discharge. She will follow-up in clinic in 14 days. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO TID 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Venlafaxine XR 150 mg PO DAILY 
4. Amlodipine 2.5 mg PO DAILY 
5. Warfarin 2 mg PO DAILY16 

 
Discharge Medications:
1. Amiodarone 200 mg PO TID 
2. Amlodipine 2.5 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Venlafaxine XR 150 mg PO DAILY 
5. Warfarin 2 mg PO DAILY16 
6. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*28 Tablet Refills:*0
7. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right Lower Leg Hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ will come to your home to manage the wound VAC. Please call 
the office at ___ if you notice increased drainage, 
swelling, or redness around the wound. Please also call the 
office if you develope a fever greater than 101.5 degrees. 

Please take the prescribed antibiotic twice a day for two weeks. 
Take all other home medications as prescribed. For pain, take 
tylenol or aspirin. Take 1 tab oxycodone every 4 hours for more 
severe pain. Do not drive while taking narcotic pain 
medications. 

Please follow-up with your PCP for management of your Coumadin. 
 
Followup Instructions:
___